* C:\users\chad\My Documents\LTspiceXVII\ECE521_CEampProblem2.asc
C1 N004 AFin 220nF
C2 0 N006 100µF
C3 AFout N002 220nF
Q1 N002 N004 N005 0 2N3904
V1 N001 0 11
V2 N003 0 SINE(0 {sig} 1e3) AC 2 0
R1 AFin N003 {Zo}
R2 N004 0 27k
R3 N005 0 2.2k
R4 N001 N004 22k
R5 N005 N006 150
R6 AFout 0 100k
R7 N001 N002 2.2k
.model NPN NPN
.model PNP PNP
.lib C:\users\chad\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.param Zo 50
.ac dec 200 10 1e6
.step param Zo list 50 7.5k
.param sig 10mV
.backanno
.end
